US06294558B1
1-(4-Bromophenyl)-2-methyl-5-[4-(methylsulfonyl)phenyl]-1H-pyrrole (Step 1)
A mixture of 1-[4-(methylsulfonyl)phenyl]pentane-1,4-dione (3 g, 11.8 mmol), 4-bromoaniline (2.03 g, 11.8 mmol), and p-toluenesulfonic acid (150 mg) in toluene (250 mL) was heated at reflux temperature using Dean-Stark apparatus. After cooling down, volatiles were removed by evaporation. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/3) to give the subtitle compound (2.5 g, 54% yield).

reactant | 1-[4-(methylsulfonyl)phenyl]pentane-1,4-dione | 11.8 mmol, 3 g | CS(=O)(=O)C1=CC=C(C=C1)C(CCC(C)=O)=O | C12H14O4S
reactant | 4-bromoaniline | 11.8 mmol, 2.03 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | p-toluenesulfonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Bromophenyl)-2-methyl-5-[4-(methylsulfonyl)phenyl]-1H-pyrrole | 2.5 g, 54% yield | BrC1=CC=C(C=C1)N1C(=CC=C1C1=CC=C(C=C1)S(=O)(=O)C)C | C18H16BrNO2S
